US03931177
A well stirred mixture of methyl 3-(2-hydroxybenzoyl)propionate (63.3 g, 0.3 mole), potassium carbonate (48.4 g, 0.35 mole), epibromohydrin (117 ml, 1.4 mole), and dry ethyl methyl ketone (2000 ml) was heated under reflux for 28 hours. Evaporation of the filtered solution under reduced pressure gave methyl 3-[2-(2,3-epoxypropoxy)benzoyl]propionate (83 g, 100%).

reactant | methyl 3-(2-hydroxybenzoyl)propionate | 0.3 mole, 63.3 g | OC1=C(C(=O)CCC(=O)OC)C=CC=C1 | C11H12O4
reactant | potassium carbonate | 0.35 mole, 48.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 1.4 mole, 117 ml | C(Br)C1CO1 | C3H5BrO
solvent | ethyl methyl ketone | 2000 ml | CC(=O)CC | C4H8O
product | methyl 3-[2-(2,3-epoxypropoxy)benzoyl]propionate | 83 g, 100% | O1C(COC2=C(C(=O)CCC(=O)OC)C=CC=C2)C1 | C14H16O5
